data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21][Na].CC(C)C1(CCC(=O)C1)[O-:10].CCO.O>>[H:20][O:10]C1(CCC(=O)C1)C(C)C.[OH:21][Na].CCO.O 10=20;20,21=21
CCC(C)[OH:10].CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl>>CCC(C)[OH+:10][S:20](=O)(C1=CC=C(C=C1)C)([O-:21])Cl 10=20;20,21=21
[B:20](F)(F)F.CC(C)(C)C(C)(C)OCC=[O:10]>>[B-:20]([O+:10]=CCOC(C)(C)C(C)(C)C)(F)(F)F 10=20,
[H:20][O+:21]=C(C)C.COC1=C(C=C(C=C1)CCN2C(=O)CC3(C2=C[CH:10]=[C:11](C3)[OH:12])C(=O)OC)OC.C(=O)(C(F)(F)F)[O-]>>[H:20][CH:10]1C=C2C(C[C:11]1=[OH+:12])(CC(=O)N2CCC3=CC(=C(C=C3)OC)OC)C(=O)OC.CC(=[O:21])C.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
CCO[C:20](=[O:21])C1=CC=CC=C1.[OH-:10]>>CCO[C:20](C1=CC=CC=C1)([OH:10])[O-:21] 10=20;20,21=21
[CH3:20][O:21][P+:22](C)(C)O.[I-:10]>>C[P:22](=[O:21])(C)O.[CH3:20][I:10] 10=20;20,21=21,22
[H:20][O:21]CC(C)(C)C([C:10]#[C:11][O:12]CC)O>>[H:20][C:10](=[C:11]=[O+:12]CC)C(C(C)(C)C[O-:21])O 10,11=10,20;20,21=21;12=11
CC(C)(C)OC(=O)O[C:20](NC1=C(C=CC=C1)C=C)([N+:21]2=CC=C(C=C2)N(C)C)[O-:10].CC(C)(C)O>>CC(C)(C)OC(=O)O[C:20](=[O:10])NC1=C(C=CC=C1)C=C.CN(C)C1=CC=[N:21]C=C1.CC(C)(C)O 10=20;20,21=21
[CH3:20][O+:21]1CC(N2C3=C(C=CC=C3)C4=CC=CC1=C42)C5=CC=CC=C5.[I-:10].CS(=O)(=O)[O-].[Na+]>>[CH3:20][I:10].C1C(N2C3=C(C=CC=C3)C4=CC=CC(=C42)[O:21]1)C5=CC=CC=C5.CS(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:20][O:21]OC(=O)C1=CC(=CC=C1)Cl.CC(C)OC1=C2C=CC(=C(C2=CC(=C1)C=[O:10])OC)Br>>[H:20][O+:10]=CC1=CC(=C2C=CC(=C(C2=C1)OC)Br)OC(C)C.C1=CC(=CC(=C1)Cl)C(=O)O[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(=[O:10])C=C>>[H:20][O+:10]=C(C=C)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)N(C)C)CC1=CC=CC=C1.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CN(C)C(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
COC1C2CC(C1C=C2)([CH2:20][S+:21](=O)(C)C)[O-:10]>>COC1C2CC3(C1C=C2)[CH2:20][O:10]3.C[S:21](=O)C 10=20;20,21=21
C1=CC=C(C=C1)[C+:20](C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC(=C1)C#N)OCCCSC2=N[N-:10]C=N2.CC[NH+](CC)CC.[Cl-]>>C1=CC=C(C=C1)[C:20](C2=CC=CC=C2)(C3=CC=CC=C3)[N:10]4C=NC(=N4)SCCCOC5=CC(=CC=C5)C#N.CC[NH+](CC)CC.[Cl-] 10=20,
[H:20][N+:21]1(CCCC1C2=NN=NN2)C(CCCC)(C3=C(C=CC(=C3)Br)O)O.C(=O)(C(F)(F)F)[O-:10].C1=CC(=CC=C1C=O)[N+](=O)[O-]>>[H:20][O:10]C(=O)C(F)(F)F.CCCCC(C1=C(C=CC(=C1)Br)O)([N:21]2CCCC2C3=NN=NN3)O.C1=CC(=CC=C1C=O)[N+](=O)[O-] 10=20;20,21=21
[B-](C)(C)(C)[O+:21]1CCC[N:10]([C:20]1(C)C)C>>[B-](C)(C)(C)[O:21]CCC[N+:10](=[C:20](C)C)C 10=20;20,21=21
CC(C)([CH:20]=[O:21])Cl.COC(=O)[CH-:10]C(=O)OC.C(=O)(O)[O-]>>CC(C)([CH:20]([CH:10](C(=O)OC)C(=O)OC)[O-:21])Cl.C(=O)(O)[O-] 10=20;20,21=21
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.COC1=NC(=NC(=C1)C[OH:10])OC.CC(=O)[O-]>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]CC3=CC(=NC(=N3)OC)OC)OC(=O)C.CC(=O)[O-] 10=20,
C[N+:21](=[CH:20][S-:10])C>>C[N:21](C)[CH:20]=[S:10] 10=20;20,21=21
[H:20][C:21](C)([CH:22]=[O:23])C(C)O.[OH-:10]>>[H:20][OH:10].CC([C:21](=[CH:22][O-:23])C)O 10=20;22,23=23;20,21=21,22
[Li:20]N(C=C(C)[Si](CC)(CC)CC)C(C)(C)C.CCCCCCCC=[O:10].CC(C)NC(C)C>>[Li-:20](N(C=C(C)[Si](CC)(CC)CC)C(C)(C)C)[O+:10]=CCCCCCCC.CC(C)NC(C)C 10=20,
C[C-:10]1C(=O)CCCC1=O.CC(=O)[CH:21]=[CH2:20].CO.C[OH+][Na]>>CC(=O)[CH-:21][CH2:20][C:10]1(C(=O)CCCC1=O)C.CO.C[OH+][Na] 10=20;20,21=21
CC(=O)NC1=CC=C(C=C1)[N:10]=[N:20][OH2+:21]>>CC(=O)NC1=CC=C(C=C1)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].CC(C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C(C)C.[OH2:21] 10,11=10,20;20,21=21
[H:20][C:21]1(CCCC([CH:22]1[Cl:23])C)CC.[NH2-:10]>>[H:20][NH2:10].CC[C:21]1=[CH:22]C(CCC1)C.[Cl-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH+:22]C2=C(N1)C=CC=C2)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C2=C(N1)C=CC=C2 10=20;20,21=21,22
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)CCOCCO)C.CC(=O)[O-:10].C1=CC=CC=C1.O>>CC1=C[CH:21]=[C:22]([N:23]1CCOCCO)C.[H:20][O:10]C(=O)C.C1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
CSC(=CC(=O)C1=CC=CC=C1)[O+](CC#C)[K:20].C#CC[O-:10].CSC>>CSC(=CC(=O)C1=CC=CC=C1)[O+](CC#C)[K-:20][O:10]CC#C.CSC 10=20,
[H:10][C:11](C)(C)[CH+:20]CC>>[H:10][CH:20](CC)[C+:11](C)C 10,11=10,20
CO[CH:20]([NH2:10])[OH2+:21].[Cl-]>>CO[CH:20]=[NH2+:10].[OH2:21].[Cl-] 10=20;20,21=21
[H:20][OH+:21]C.CCC(C)C(C(O)([OH:10])OC)[NH3+].[Cl-]>>[H:20][OH+:10]C(C(C(C)CC)[NH3+])(O)OC.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CBr.[NH2-:10]>>[H:20][NH2:10].[CH2:21]=[C:22](CBr)[O-:23] 10=20;22,23=23;20,21=21,22
CC(=CC1C(O1)CC2C(C(CCC23[CH2:20][O:21]3)OC(=O)C=CC=CC=CC=CC(=O)O)OC)C.CC(=O)CC1=C[N:10]=CN1>>CC(=CC1C(O1)CC2C(C(CCC2([CH2:20][N+:10]3=CNC(=C3)CC(=O)C)[O-:21])OC(=O)C=CC=CC=CC=CC(=O)O)OC)C 10=20;20,21=21
[H:20][C:21](CC(C(=O)C)Br)(C(=O)OCC)[N+:22](=[O:23])[O-].C(=O)([O-:10])O[Na]>>CCOC(=O)[C:21](=[N+:22]([O-:23])[O-])CC(C(=O)C)Br.[H:20][O:10]C(=O)O[Na] 10=20;22,23=23;20,21=21,22
[H:20][OH:21].[B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[O:10]C(CO[Si](C(C)C)(C(C)C)C(C)C)C(C)C=C.[Na+]>>[H:20][O+:10]([B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O)C(CO[Si](C(C)C)(C(C)C)C(C)C)C(C)C=C.[OH-:21].[Na+] 10=20;20,21=21
[H:20][OH+:21]CC.[Cl-:10]>>[H:20][Cl:10].CC[OH:21] 10=20;20,21=21
C[SH+:21][S:20]C.[Br-:10]>>C[SH:21].C[S:20][Br:10] 10=20;20,21=21
